US05434149
In analogy to Example 1, by reacting 5-(3-methoxy-4-fluoromethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4thiadiazin-2-one with 1-chloro-3-morpholinopropane, 3-morpholinopropyl-5-(3-methoxy-4-fluoromethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one is obtained.

reactant | 5-(3-methoxy-4-fluoromethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4thiadiazin-2-one | COC=1C=C(C=CC1OCF)C1=NNC(SC1CC)=O | C13H15FN2O3S
reactant | 1-chloro-3-morpholinopropane | ClCCCN1CCOCC1 | C7H14ClNO
product | 3-morpholinopropyl-5-(3-methoxy-4-fluoromethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | O1CCN(CC1)CCCN1C(SC(C(=N1)C1=CC(=C(C=C1)OCF)OC)CC)=O | C20H28FN3O4S
